US06020345
Stage 2: toluene-4-sulfonic acid 1-(3-chloro-4-fluorobenzoyl)-4-fluoropiperidin-4-yl-methyl Ester
4.87 g of para-toluenesulfonyl chloride (25.5 mmol) are slowly added to a solution of 6.70 g of (4-fluoro-4-hydroxymethylpiperidin-1-yl)-(3-chloro-4-fluorophenyl)methanone (23.12 mmol) in 40 ml of pyridine cooled to 0° C. and maintained under a nitrogen atmosphere. The mixture is stirred for 12 hours at room temperature and then it is poured into ice-cold water, extracted with chloroform and then the organic phase is washed with a 1N aqueous solution of hydrochloric acid. The organic phase is dried over magnesium sulfate, filtered and then concentrated under vacuum. The title product is purified by recrystallization from a dichloromethane/diisopropyl ether mixture. 7.73 g of a white crystalline powder are obtained.

reactant | para-toluenesulfonyl chloride | 25.5 mmol, 4.87 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (4-fluoro-4-hydroxymethylpiperidin-1-yl)-(3-chloro-4-fluorophenyl)methanone | 23.12 mmol, 6.70 g | FC1(CCN(CC1)C(=O)C1=CC(=C(C=C1)F)Cl)CO | C13H14ClF2NO2
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | toluene-4-sulfonic acid 1-(3-chloro-4-fluorobenzoyl)-4-fluoropiperidin-4-yl-methyl Ester | 7.73 g, Yield: 76% | ClC=1C=C(C(=O)N2CCC(CC2)(F)COS(=O)(=O)C2=CC=C(C=C2)C)C=CC1F | C20H20ClF2NO4S
